US04032639
2-Chloro-6-Fluoronitrobenzene
To a solution of 17.2 g. of 2-chloro-6-fluoroaniline hydrochloride and 12.5 ml. of concentrated hydrochloric acid in 150 ml. of water is added slowly a solution of 9 g. of sodium nitrite in 25 ml. of water. The temperature of the solution is kept below 5° at all times. This solution is then added to a stirred suspension of 18 g. of cuprocupric sulfite and 60 g. of sodium nitrite in 300 ml. of water at room temperature. The mixture is stirred for 1 hour then steam distilled until no trace of product is noted condensing in the distillate. The distillate is extracted with ether, dried (magnesium sulfate) concentrated and distilled to give 7.8 g. of product, b.p. 148°-152° at 30 mm. Gas chromatography analysis shows this to be greater than 95% pure.

reactant | 2-chloro-6-fluoroaniline hydrochloride | Cl.ClC1=C(N)C(=CC=C1)F
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfite | S(=O)([O-])[O-]
solvent | water | O | H2O
product | 2-Chloro-6-Fluoronitrobenzene | ClC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3ClFNO2
